US06001839
A mixture of 4-amino-5-(4-hydroxyphenyl)-7-isopropylpyrrolo[2,3-d]-pyrimidine (0.29 g), 2-fluoronitrobenzene (0.15 g), potassium carbonate (0.149 g) and N,N-dimethylformamide (4.0 ml) was shaken and heated at 120° C. for 5 hours. The mixture was evaporated to dryness under reduced pressure and the residue was partitioned between ethyl acetate (30 ml) and water (20 ml). The organic layer was separated, washed with water, and then with dilute sodium hydroxide solution, and then with brine, then dried, filtered and evaporated to give a solid which was triturated with ether to give 7-isopropyl-5-[4-(2-nitrophenoxy)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine. The structure was confirmed by 1H nmr.

reactant | 4-amino-5-(4-hydroxyphenyl)-7-isopropylpyrrolo[2,3-d]-pyrimidine | 0.29 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)O)C(C)C | C15H16N4O
reactant | 2-fluoronitrobenzene | 0.15 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.149 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 7-isopropyl-5-[4-(2-nitrophenoxy)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C)(C)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=C(C=CC=C2)[N+](=O)[O-] | C21H19N5O3
